Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vioxx / Enbrel / Mobic
 
Attending: ___.
 
Chief Complaint:
Rectal pain
 
Major Surgical or Invasive Procedure:
flexible sigmoidoscopy 

 
History of Present Illness:
___ year old woman with hypertension, rheumatoid arthritis on 
chronic steroids & abatacept, remote h/o seizures, and 
osterporosis with several fractures, who presented with rectal 
pain after a recent admission (discharged ___ for 
abdominal pain and BRBPR. She presented that admission with 
bloody, loose stool and lower, cramping abdominal pain. CT scan 
from that admission revealed left sided colitis from the splenic 
flexure to the sigmoid. She was seen by surgery and GI, and had 
no surgical procedure or endoscopy, and diagnosed her with 
infectious vs ischemic colitis. She was treated with IVF and 
Cipro/Flagyl, the course of which she finished yesterday. She 
was discharged on a Prednisone taper, but is now back to her 
home dose of 5mg prednisone daily.

Since discharge ___, she felt well until ___. On ___ she 
began to note rectal pain, which she had not had in her prior 
hospitalization. She also noted some bright red blood on the 
toilet paper. Her stools have been loose, generally brown to 
green in color, though she notes that she does not see all that 
well since recent cataract surgery so she isn't sure.

She reports chills x1. No fevers. The lower abdominal pain she 
had last admission has resolved and not returned. No pain 
anywhere other than rectum. RA well controlled. Next Arencia 
dose due for ___.

Her last upper endoscopy by Dr. ___ was in ___ and 
was significant for a small focus of ___ esophagus without 
dysplasia. Her last colonoscopy was in ___ and 
included a negative biopsy for Crohn's disease and microscopic 
colitis.

 
Past Medical History:
- Mild bronchiectasis  
- Osteoporosis - T12 compression fx ___  
- History of C. diff colitis  
- RA on ___  
- Hypertension  
- Hyperlipidemia  
- Seizure disorder on topiramate (last seizure in 1980s)  
- Sjogren's Syndrome  
- Hypothyroidism  
- Osteopenia  
- Vericose vein surgery (___)  
- Tubal ligation (___)
- Long QTc (per patient; 436 when last checked in our system)
 
Social History:
___
Family History:
- Mother with ovarian cancer.
- Father died of CHF at ___ years.
- Aunt with osteopenia
- No history of Sjogren's or RA
 
Physical Exam:
ADMISSION EXAM
VS -  Temp 97.7, HR 75, BP 140/87, RR 16, 100% RA
GENERAL: NAD, A+Ox3, Pleasant  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition, oropharynx clear
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender in suprapubic region, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: grossly intact
MUSC: no evidence of active synovitis/warmth/swelling to joints
SKIN: warm and well perfused, rashes in area of past IV sticks 
on arms

DISCHARGE EXAM
VS - Tmax 98.1, HR 50-63, BP 116-119/60-74, RR 16, 100% RA  
GENERAL: NAD, A+Ox3, Pleasant  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, MMM, 
oropharynx clear
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably
ABDOMEN: nondistended, +BS, nontender 
EXTREMITIES: no cyanosis, clubbing or edema
MUSC: no evidence of active synovitis/warmth/swelling to joints
 
Pertinent Results:
ADMISSION LABS
___ 05:25PM BLOOD WBC-9.5 RBC-4.13 Hgb-13.7 Hct-38.2 MCV-93 
MCH-33.2* MCHC-35.9 RDW-12.9 RDWSD-42.7 Plt ___
___ 05:25PM BLOOD Neuts-82* Bands-0 Lymphs-11* Monos-6 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-7.79* 
AbsLymp-1.05* AbsMono-0.57 AbsEos-0.10 AbsBaso-0.00*
___ 05:25PM BLOOD ___ PTT-30.3 ___
___ 05:25PM BLOOD Glucose-149* UreaN-8 Creat-0.8 Na-127* 
K-4.3 Cl-97 HCO3-19* AnGap-15
___ 05:25PM BLOOD ALT-31 AST-35 AlkPhos-50 TotBili-0.4
___ 05:25PM BLOOD Albumin-3.8 Calcium-9.0 Phos-2.8 Mg-1.8
___ 05:25PM BLOOD CRP-3.8
___ 05:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:05PM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:41PM URINE Hours-RANDOM Creat-38 Na-22 K-21 Cl-27
___ 01:41PM URINE Osmolal-181

DISCHARGE LABS
___ 09:10AM BLOOD WBC-6.8 RBC-3.88* Hgb-12.8 Hct-36.1 
MCV-93 MCH-33.0* MCHC-35.5 RDW-13.1 RDWSD-43.7 Plt ___
___ 09:10AM BLOOD Glucose-95 UreaN-7 Creat-0.9 Na-126* 
K-4.2 Cl-95* HCO3-21* AnGap-14

REPORTS
Flex Sig ___: 
An anal fissure was noted at 3 o'clock with the patient in the
left lateral decubitus position and is the likely explanation 
for
patient's rectal pain. The rectal and distal sigmoid mucosa
appeared normal. Solid brown stool was seen in the rectum 
without
evidence of recent bleed. Large non-bleeding internal 
hemorrhoids
were seen.

MICROBIOLOGY
Urine culture negative to date
 
Brief Hospital Course:
___ y/o F with a h/o RA, HTN, Osteoporosis, and recent admission 
for colitis, who presented as a direct admission for workup of 
rectal pain and BRBPR, found to have an anal fissure.

ACTIVE PROBLEMS
# Anal Fissure: Discharged ___ with Prednisone taper and 
course of Cipro/Flagyl for presumed infectious vs ischemic 
colitis. She completed both of these and was back on maintenance 
home dose of 5mg prednisone. Her symptoms initially improved, 
until she developed rectal pain, loose stools, and BRB on TP. 
She was then directly admitted from the PCP office for these 
symptoms. GI did flex sig on arrival, and found an anal fissure. 
CRP 3.8. She was given Lidocaine 2% Q4H with symptomatic 
improvement. As outpatient she can continue Lidocaine, and 
should also ensure for soft stools (Colace/Miralax PRN, High 
fiber diet). Acetaminophen may also be used PRN. Nifedipine 
cream can also be used as outpatient if lidocaine ineffective, 
though she would need to go to compounding pharmacy to obtain 
this.

# Suprapubic tenderness: Noted on admission exam, though quickly 
resolved. UA without e/o infection.

# Hyponatremia: 126-127 stable. No symptoms. Urine Osm 181, 
Urine Na 22. Should recheck in outpatient setting.

CHRONIC PROBLEMS
# Hypothyroidism: Continue home levothyroxine 50 mcg daily

# RA: Currently well controlled. Continue prednisone 5mg (home 
maintenance dose). Next Orencia due ___. Cyclobenzaprine 5mg 
QHS

# HTN: continue home Moexipril 15mg daily, home Spironolactone 
50mg daily, home Amlodipine 5mg daily

# HLD: home Atorvastatin 20mg daily

# Remote h/o seizure: continue home Topiramate 50mg daily, 
Oxcarbazepine 300mg BID

# Osteoporosis: Ca carbonate 750mg BID, Vitamin D 3000 unit 
daily

TRANSITIONAL ISSUES
# discharged with prescription for lidocaine paste for symptom 
management
# hyponatremia: recommend recheck of Chem 7 on ___ with PCP to 
follow up these results
# could consider topical nifedipine (would need to go to 
compounding pharmacy) if lidocaine does not help for rectal 
symptoms
# discharged with instruction on titrating colace and miralax 
doses to have ___ soft BM's a day
# has GI follow-up in place 
# full code

>30 minutes spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. calcium carbonate 320 mg (750 mg) oral BID 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. omeprazole 20 mg oral DAILY 
7. Oxcarbazepine 300 mg PO BID 
8. Spironolactone 50 mg PO DAILY 
9. Topiramate (Topamax) 50 mg PO DAILY 
10. Vitamin D 3000 UNIT PO DAILY 
11. abatacept (with maltose) 750 mg injection every 4 weeks 
12. Cyclobenzaprine 5 mg PO HS 
13. Moexipril 15 mg PO DAILY 
14. PredniSONE 5 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Calcium Carbonate 320 mg (750 mg) ORAL BID 
5. Cyclobenzaprine 5 mg PO HS 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Moexipril 15 mg PO DAILY 
8. omeprazole 20 mg oral DAILY 
9. Oxcarbazepine 300 mg PO BID 
10. PredniSONE 5 mg PO DAILY 
11. Spironolactone 50 mg PO DAILY 
12. Topiramate (Topamax) 50 mg PO DAILY 
13. Vitamin D 3000 UNIT PO DAILY 
14. abatacept (with maltose) 750 mg injection every 4 weeks 
15. Lidocaine Jelly 2% 1 Appl TP BID rectal pain 
RX *lidocaine HCl [Xolido] 2 % Apply to rectum every four hours 
Refills:*1
16. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*0
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
titrate to 2 soft bowel movements per day, if no bowel movement 
by noon please take 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0
18. Outpatient Lab Work
ICD-10: E87.1, Hyponatremia
Please check serum Na, K, Cl, Bicarb, BUN, Cr, Glucose on 
___.
Fax results to ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
anal fissure
constipation
hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you during your recent admission. 
You came back to the hospital because you were having severe 
pain in your rectum. The GI doctors did ___ to look 
for a source, and they saw that you have an anal fissure. This 
is a tear in the skin which can be very painful but the good 
news is they didn't see any other signs of inflammation and that 
this condition will get better. It is very important that you 
take medications to keep you from getting constipated, as 
straining can make this much worse. 

Please take your medications as directed and follow-up with your 
doctors as ___ below. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___